US06512123B2
In a manner analogous to that of example 1 (b), 7-bromo-heptanoic acid benzyloxy-amide (1.8 g, 5.7 mmol) was reacted with 2-hydroxycarbazole (1.05 g, 5.7 mmol) in the presence of potassium carbonate (1.2 g, 8.6 mmol) in dimethyl formamide to give 7-(9H-carbazol-2-yloxy)-heptanoic acid benzyloxyamide as an almost colorless wax (yield 0.53 g, 22%; purified by column chromatography using silica gel and ethyl acetate: heptane 4:6 to 6:4 as an eluent). MS (M−H+)=415.

reactant | 7-bromo-heptanoic acid benzyloxy-amide | 5.7 mmol, 1.8 g | C(C1=CC=CC=C1)ONC(CCCCCCBr)=O | C14H20BrNO2
reactant | 2-hydroxycarbazole | 5.7 mmol, 1.05 g | OC1=CC=2NC3=CC=CC=C3C2C=C1 | C12H9NO
reactant | potassium carbonate | 8.6 mmol, 1.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 7-(9H-carbazol-2-yloxy)-heptanoic acid benzyloxyamide | C(C1=CC=CC=C1)ONC(CCCCCCOC1=CC=2NC3=CC=CC=C3C2C=C1)=O | C26H28N2O3
